US07872014B2
To a solution of 2-(2-(methyloxy)-3-{[2-(methyloxy)ethyl]oxy}phenyl)-3-oxobutanenitrile (0.17 g, 0.65 mmol) in ethanol (5 mL) was added hydrazine dihydrochloride (99 mg, 0.94 mmol). The resulting mixture was heated at reflux for 1 hour. It was cooled, poured into a saturated sodium bicarbonate solution (10 mL), and the mixture was extracted with ethyl acetate (3×10 mL). The combined extract was washed with aqueous sodium bicarbonate solution, brine, dried over sodium sulfate, filtered and concentrated to give an oily residue which was purified by flash chromatography (silica gel, 5% methanol in dichloromethane) to provide 3-methyl-4-(2-(methyloxy)-3-{[2-(methyloxy)ethyl]oxy}phenyl)-1H-pyrazol-5-amine (115 mg, 0.42 mmol, 65% yield). MS (EI) for C14H19N3O3: 278 (MH+).

reactant | 2-(2-(methyloxy)-3-{[2-(methyloxy)ethyl]oxy}phenyl)-3-oxobutanenitrile | 0.65 mmol, 0.17 g | COC1=C(C=CC=C1OCCOC)C(C#N)C(C)=O | C14H17NO4
reactant | hydrazine dihydrochloride | 0.94 mmol, 99 mg | Cl.Cl.NN
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 3-methyl-4-(2-(methyloxy)-3-{[2-(methyloxy)ethyl]oxy}phenyl)-1H-pyrazol-5-amine | 0.42 mmol, 115 mg, 65% yield | CC1=NNC(=C1C1=C(C(=CC=C1)OCCOC)OC)N | C14H19N3O3
